US07626020B2
In this aspect of the invention [4-(1,3,4-oxadiazol-2-yl)phenyl]boronic acid is coupled with N-(isobutoxycarbonyl)-2-chloro-N-(3-methoxy-5-methylpyrazin -2-yl)pyridine-3-sulphonamide to form N-(isobutoxycarbonyl) N-(3-methoxy-5-methylpyrazin-2-yl)-2-(4-[1,3,4-oxadiazol-2-yl]phenyl)pyridine-3-sulphonamide.

reactant | [4-(1,3,4-oxadiazol-2-yl)phenyl]boronic acid | O1C(=NN=C1)C1=CC=C(C=C1)B(O)O | C8H7BN2O3
reactant | N-(isobutoxycarbonyl)-2-chloro-N-(3-methoxy-5-methylpyrazin -2-yl)pyridine-3-sulphonamide | C(C(C)C)OC(=O)N(S(=O)(=O)C=1C(=NC=CC1)Cl)C1=NC=C(N=C1OC)C | C16H19ClN4O5S
product | N-(isobutoxycarbonyl) N-(3-methoxy-5-methylpyrazin-2-yl)-2-(4-[1,3,4-oxadiazol-2-yl]phenyl)pyridine-3-sulphonamide | C(C(C)C)OC(=O)N(S(=O)(=O)C=1C(=NC=CC1)C1=CC=C(C=C1)C=1OC=NN1)C1=NC=C(N=C1OC)C | C24H24N6O6S
